US06713645B1
A. Preparation of 3-phenylmethyl-7-methoxyindole
A mixture of 15 gm (0.086 mol) of 2-methoxyphenylhydrazine hydrochloride and 12 mL (0.09 mol) of 3-phenylpropionaldehyde in 300 mL of toluene was refluxed for 1.5 hours with azeotropic removal of water. The suspension was cooled, evaporated in vacuo and the residue dissolved in 500 mL of dichloromethane and stirred with 9 mL (0.09 mol) of phosphorous trichloride for 18 hours. The solution was poured into ice-water, stirred well, and made basic with sodium bicarbonate. The organic phase was washed with saturated sodium chloride, dried over sodium sulfate, and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a gradient hexane/5-15% ethyl ether to give product, 8.0 gm, 40%, as a viscous oil. 1H NMR (CDCl3) δ: 3.95 (s, 3H), 4.10 (s, 2H), 6.65 (d, 1H), 6.90 (s, 1H), 7.00 (t, 1H), 7.10 (d, 1H), 7.20 (m, 1H), 7.30 (m, 4H), 8.20 (br s, 1H)

reactant | 2-methoxyphenylhydrazine hydrochloride | 0.086 mol, 15 gm | Cl.COC1=C(C=CC=C1)NN
reactant | 3-phenylpropionaldehyde | 0.09 mol, 12 mL | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | phosphorous trichloride | 0.09 mol, 9 mL | P(Cl)(Cl)Cl | Cl3P
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-phenylmethyl-7-methoxyindole | C1(=CC=CC=C1)CC1=CNC2=C(C=CC=C12)OC | C16H15NO
